US07253286B2
N-(4-(6-Cyano-7-hydroxy-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea
After dissolving N-(4-(7-(benzyloxy)-6-cyano-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea (6.20 g, 12.3 mmol) in trifluoroacetic acid (60 ml) and thioanisole (3.6 ml, 30.7 mmol) under a nitrogen atmosphere, the solution was stirred at 60° C. overnight. The reaction solution was concentrated under reduced pressure, and after adding water (100 ml) to the obtained residue, sodium bicarbonate was added to neutralization, diethylether (200 ml) was added, the mixture was stirred, and the precipitated crystals were filtered out, washed with water and diethyl ether and dried at 70° C. to obtain the title compound (4.816 g, 11.6 mmol, 94.8%) as yellow crystals.

reactant | N-(4-(7-(benzyloxy)-6-cyano-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 12.3 mmol, 6.20 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)C#N | C30H21FN4O3
reactant | thioanisole | 30.7 mmol, 3.6 ml | C1(=CC=CC=C1)SC | C7H8S
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(4-(6-Cyano-7-hydroxy-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 11.6 mmol, 4.816 g, 94.8% | C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H15FN4O3
